US04459150
Sodium hydride (0.5 g) was added to a solution of 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole (5.8 g) in dimethylformamide (20 ml). After the initial exothermic reaction had subsided, the solution was heated on a steam-bath for 5 minutes and then cooled to 10° C. Phenyl chloroformate (2.8 ml) was then added slowly in small portions with occasional cooling with water to keep the temperature below 50° C. The mixture was then heated on a steam-bath for 10 minutes, cooled and evaporated to dryness. The solid residue was treated with diethyl ether (300 ml). The ethereal suspension was filtered and the filtrate was evaporated to dryness. The solid residue thus obtained was boiled in ethanol (200 ml) and separated by filtration, to give 4-cyano-5-di(phenoxycarbonyl)amino-1-(2,3,4-trichlorophenyl)pyrazole (1.7 g), m.p. 206°-208° C., in the form of colourless crystals.

reactant | Sodium hydride | 0.5 g | [H-].[Na+]
reactant | 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole | 5.8 g | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C10H5Cl3N4
reactant | Phenyl chloroformate | 2.8 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-cyano-5-di(phenoxycarbonyl)amino-1-(2,3,4-trichlorophenyl)pyrazole | 1.7 g | C(#N)C=1C=NN(C1N(C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C1=C(C(=C(C=C1)Cl)Cl)Cl | C24H13Cl3N4O4
